US06506901B2
[1-({4-[Amino(hydroxyimino)methyl]phenyl}sulfonyl)-4-piperidinyl]methyl-carbamic Acid t-Butyl Ester
{1-[(4-Cyanophenyl)sulfonyl]-4-piperidinyl}methylcarbamic acid t-butyl ester (1 g, 2.6 mmol), potassium carbonate (1.8 g, 13 mmol), and ammonium hydroxide hydrochloride (0.916 g, 13 mmol) were heated in ethanol (5 ml) at reflux for 2.5 days. The reaction was cooled in an ice-water bath, and filtered. The solid was washed with cold ethanol, and evaporated to a white solid (0.870 g).

reactant | {1-[(4-Cyanophenyl)sulfonyl]-4-piperidinyl}methylcarbamic acid t-butyl ester | 2.6 mmol, 1 g | C(C)(C)(C)OC(NCC1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C#N)=O | C18H25N3O4S
reactant | potassium carbonate | 13 mmol, 1.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium hydroxide hydrochloride | 13 mmol, 0.916 g | Cl.[OH-].[NH4+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | [1-({4-[Amino(hydroxyimino)methyl]phenyl}sulfonyl)-4-piperidinyl]methyl-carbamic Acid t-Butyl Ester | C(C)(C)(C)OC(NCC1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C(=NO)N)=O | C18H28N4O5S
